US07847108B2
2-(3-Chloro-1-methylpentyl)phenylamine (III-3) is obtained by initially preparing N-[2-(2-cyclopropylisopropyl)phenyl]-2,2-dimethylpropanamide analogously to Examples (III-1a) and (III-1b). In the third step, the material is reacted with hydrochloric acid which gives, in addition to 2-(2-cyclopropylisopropyl)phenylamine, also the compound (III-3).

reactant | 2-(3-Chloro-1-methylpentyl)phenylamine | ClC(CC(C)C1=C(C=CC=C1)N)CC | C12H18ClN
reactant | N-[2-(2-cyclopropylisopropyl)phenyl]-2,2-dimethylpropanamide | C1C(C1)C(C)(C)C1=C(C=CC=C1)NC(C(C)(C)C)=O | C17H25NO
reactant | hydrochloric acid | Cl | ClH
product | 2-(2-cyclopropylisopropyl)phenylamine | C1C(C1)C(C)(C)C1=C(C=CC=C1)N | C12H17N
